US04218476
4 -tert.butyl- 2,6 -dimethylbenzenesulphonylchloride
85 ml Chlorosulphonic acid (1.3 mole) was added to a mixture of 81 g (0.5 mole) 3,5 -dimethyl-tert.-butylbenzene at 0± 2° C. The reaction mixture was stirred at 0° C. for 1.5 hours, poured on ice and the layers were separated. The organic layer was washed with water, sodium bicarbonate, and water and was then dried with sodium sulphate. The solvent was removed in vacuum giving pale-yellow crystals of the title compound, m.p. 65° C.

reactant | Chlorosulphonic acid | 1.3 mole, 85 ml | ClS(=O)(=O)O | ClHO3S
reactant | 3,5 -dimethyl-tert.-butylbenzene | 0.5 mole, 81 g | CC=1C=C(C=C(C1)C)C(C)(C)C | C12H18
product | 4 -tert.butyl- 2,6 -dimethylbenzenesulphonylchloride | C(C)(C)(C)C1=CC(=C(C(=C1)C)S(=O)(=O)Cl)C | C12H17ClO2S
